US05229400
c) 3-(N-Acetyl-4-piperidinyl)propanol
1-Acetoxy-3-(N-acetyl-4-piperidinyl)propane was saponificated by potassium carbonate.

reactant | 1-Acetoxy-3-(N-acetyl-4-piperidinyl)propane | C(C)(=O)OCCCC1CCN(CC1)C(C)=O | C12H21NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-(N-Acetyl-4-piperidinyl)propanol | C(C)(=O)N1CCC(CC1)CCCO | C10H19NO2
